Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8],3.83204064889
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],7.80313426
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],1.08029078954
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.48482852299
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-2.13952107208
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.60493247494
[C:1]#[C:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],7.60527837225
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.399542585
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.47801115422
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],5.36365409066
[H:1].[O:2]=[C:3]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-1.74355566292
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]#[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11],-2.49676553341
[C:5]([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.2672792535
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3][O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],2.53379193178
[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.91257172505
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],0.965484145176
[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-0.7397524887100001
[H:1][O:2][C:3][O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.3577109536300025
[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-4.74547017592
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:8]([H:9])[H:10].[O:6][H:7],3.29067332676
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],5.11993152297
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[C:12]([H:13])[H:14],2.81663766781
[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.56204487549
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],2.01089146064
[C:6]([H:7])#[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8][H:9],-3.19428462584
[H:1][C:2]([H:3])=[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.46067105403
[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2](=[C:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.55674967045
[C:12]([H:13])[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.273653563580001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],3.9679134086
